US05185452
A 35% w/v solution of peracetic acid in acetic acid (3.2 ml) was added in a slow stream to a stirred solution of 5,7-dimethyl-6-(nitromethylthio)thiachroman (500 mg, 1.86 mM) in chloroform (25 ml). The solution was then stirred and heated at 60° C. Two further quantities of 35% w/v peracetic acid solution (3.2 ml) were added after 2 hours and 3.5 hours, respectively. After 7.5 hours, the reaction mixture was cooled and a solution of sodium metabisulphite (5 g) in water (50 ml) was added slowly with further cooling. The organic layer was separated and the aqueous layer extracted with chloroform. The combined extracts were dried (Na2SO4) and evaporated. The white solid obtained was recrystallised from toluene to give 5,7-dimethyl-6-(nitromethylsulphonyl)thiachroman-1,1-dioxide (290 mg, 47% yield), m.p. 168°-170° C.; NMR: (d6 -DMSO): 2.38(2H,m), 2.56(3H,s), 2.65(3H,s), 2.91(2 H,t), 3.55(2H,m), 6.65(2H,s), 7.79(1H,s); microanalysis, found: C,43.3; H,4.1; N,4.1%; C12H15NO6S2 requires: C,43.2; H,4.5; N,4.2%.

reactant | peracetic acid | C(C)(=O)OO | C2H4O3
reactant | 5,7-dimethyl-6-(nitromethylthio)thiachroman | 1.86 mM, 500 mg | CC1=C2CCCSC2=CC(=C1SC[N+](=O)[O-])C | C12H15NO2S2
reactant | peracetic acid | 3.2 ml | C(C)(=O)OO | C2H4O3
reactant | sodium metabisulphite | 5 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | water | 50 ml | O | H2O
solvent | acetic acid | 3.2 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 5,7-dimethyl-6-(nitromethylsulphonyl)thiachroman-1,1-dioxide | 290 mg, 47% yield | CC1=C2CCCS(C2=CC(=C1S(=O)(=O)C[N+](=O)[O-])C)(=O)=O | C12H15NO6S2
